US04269893
33.0 g (0.1 mole) of p-(1,3-dimethyl-1,3-diphenylbutyl)phenol and 100 g of anhydrous potassium carbonate were placed in an autoclave and thereto, carbon dioxide gas was introduced at a pressure of 40 Kg/cm2. Then, the mixture was shaken at 180° C. for 5 hours. After cooling to room temperature, the pressure in the autoclave was returned to atmospheric pressure and then, 200 ml of water and 400 ml of benzene were added to the reaction product in the autoclave, followed by heating them in order to dissolve the reaction product in these solvents. The organic phase separated out was taken out of the autoclave and shaken with a dilute hydrochloric acid solution to convert the potassium salt into the corresponding free acid. Then, it was washed with water, dried and then, concentrated in order to remove the benzene. Thus, white needle crystal was separated out. The crystal was filtered off to obtain 31.8 g of 5-(1,3-dimethyl-1,3-diphenylbutyl)salicylic acid (yield: 85%, mp: 153°-155° C.).

reactant | p-(1,3-dimethyl-1,3-diphenylbutyl)phenol | 0.1 mole, 33.0 g | CC(CC(C)(C1=CC=CC=C1)C)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C24H26O
reactant | potassium carbonate | 100 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | water | 200 ml | O | H2O
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 5-(1,3-dimethyl-1,3-diphenylbutyl)salicylic acid | 31.8 g, yield: 85% | CC(CC(C)(C1=CC=CC=C1)C)(C1=CC=CC=C1)C1=CC=C(C(C(=O)O)=C1)O | C25H26O3
